US05436140
To a solution of potassium hydroxide (26.8 g) in ethanol (500 ml) was added glycine (14.6 g) and 4-methoxymethoxybenzaldehyde (48.5 g) at room temperature. After stirring for 19 hours, the solvent was removed in vacuo. The residue was dissolved in water and acidified with hydrochloric acid. The solution was washed with ethyl acetate and adjusted to pH 6.0 with sodium bicarbonate. White solid was precipitated and collected to give O-methoxymethyl-β-hydroxytyrosine (9.2 g).

reactant | potassium hydroxide | 26.8 g | [OH-].[K+]
reactant | glycine | 14.6 g | NCC(=O)O | C2H5NO2
reactant | 4-methoxymethoxybenzaldehyde | 48.5 g | COCOC1=CC=C(C=O)C=C1 | C9H10O3
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | O-methoxymethyl-β-hydroxytyrosine | 9.2 g | COCOC1=CC=C(C([C@H](N)C(=O)O)O)C=C1 | C11H15NO5
